US06028195
1-[(2-Methoxyquinolin-3-yl)aminothiocarbonyl]-4-(3,5-difluorophenyl)piperazine
Phenyl N-(2-methoxyquinolin-3-yl)thiocarbamate and 1-(3,5-difluorophenyl)piperazine were reacted by the same way with the example 109 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinolin-3-yl)thiocarbamate | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=S | C17H14N2O2S
reactant | 1-(3,5-difluorophenyl)piperazine | FC=1C=C(C=C(C1)F)N1CCNCC1 | C10H12F2N2
product | 1-[(2-Methoxyquinolin-3-yl)aminothiocarbonyl]-4-(3,5-difluorophenyl)piperazine | yield: 78% | COC1=NC2=CC=CC=C2C=C1NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)F)F | C21H20F2N4OS
